US06906072B1
Example 186 1-[4-Cyano-4-(5-cyano-2-thienyl)-5-methylhexyl]-4-[2-(5-chloro-3-pyridyloxy)ethyl]piperazine
The title compound was synthesized in accordance with Example 77 from 4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl iodide and 1-[2-(5-chloro-3-pyridyloxy)ethyl]piperazine. The physico-chemical data of the compound was as below.

reactant | 4-cyano-4-(5-cyano-2-thienyl)-5-methylhexyl iodide | C(#N)C(CCCI)(C(C)C)C=1SC(=CC1)C#N | C13H15IN2S
reactant | 1-[2-(5-chloro-3-pyridyloxy)ethyl]piperazine | ClC=1C=C(C=NC1)OCCN1CCNCC1 | C11H16ClN3O
product | 1-[4-Cyano-4-(5-cyano-2-thienyl)-5-methylhexyl]-4-[2-(5-chloro-3-pyridyloxy)ethyl]piperazine | C(#N)C(CCCN1CCN(CC1)CCOC=1C=NC=C(C1)Cl)(C(C)C)C=1SC(=CC1)C#N | C24H30ClN5OS
